US06297239B1
Step C: Preparation of [4-Iodo-3-(naphthalen-2-yloxy)-phenyl]-methyl Bromide
To a solution of [4-iodo-3-(naphthalen-2-yloxy)-phenyl]-methanol (0.085 g, 0.226 mmol) in CH2Cl2 (2 mL) at −15° C. was added a cold (0° C.) solution of N-bromosuccinimide (0.120 g, 0.68 mmol) in dimethyl sulfide (0.060 mL, 0.814 mmol) with stirring. The reaction mixture was allowed to warm to ambient temperature overnight, concentrated to dryness, and chromatographed (SiO2, 10% EtOAc:hexane) to give the title compound which was used without purification.

reactant | [4-iodo-3-(naphthalen-2-yloxy)-phenyl]-methanol | 0.226 mmol, 0.085 g | IC1=C(C=C(C=C1)CO)OC1=CC2=CC=CC=C2C=C1 | C17H13IO2
reactant | N-bromosuccinimide | 0.68 mmol, 0.120 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | dimethyl sulfide | 0.814 mmol, 0.060 mL | CSC | C2H6S
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | [4-Iodo-3-(naphthalen-2-yloxy)-phenyl]-methyl Bromide | IC1=C(C=C(C=C1)CBr)OC1=CC2=CC=CC=C2C=C1 | C17H12BrIO
